US08236806B2
1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-(4-chlorophenyl)piperazine (Compound 3)
101 mg (68%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal (80 mg, 0.312 mmol), 1-(4-chlorophenyl)piperazine (84 mg, 0.312 mmol), DIPEA (82 mL, 0.468 mmol) and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal | 0.312 mmol, 80 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C16H20N2O
reactant | 1-(4-chlorophenyl)piperazine | 0.312 mmol, 84 mg | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | DIPEA | 0.468 mmol, 82 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-(4-chlorophenyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCCN1CCN(CC1)C1=CC=C(C=C1)Cl | C26H33ClN4
